US05707936
1.a Methyl α-(2-bromomethylphenyl)but-2-enoate
Hydrogen bromide was passed at -5° C. into a solution of 14.8 g of methyl α-[2-(2-methylphenyloxymethyl)phenyl]but-2-enoate in 250 ml of methylene chloride until it was saturated (about 18 g of HBr). After termination of the reaction (about 2 h at 25° C.), the solvent was distilled off under reduced pressure. The residue thus obtained was taken up in 300 ml of cyclohexane. The solution was washed with 5% strength sodium hydroxide solution and then with water. After drying and concentrating the organic phase, 8 g of the title compound were obtained (m.p.: 64°-66° C.).

reactant | Hydrogen bromide | Br | BrH
reactant | methyl α-[2-(2-methylphenyloxymethyl)phenyl]but-2-enoate | 14.8 g | CC1=C(C=CC=C1)OCC1=C(C=CC=C1)C(C(=O)OC)=CC | C19H20O3
reactant | HBr | about 18 g | Br | BrH
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | cyclohexane | 300 ml | C1CCCCC1 | C6H12
product | Methyl α-(2-bromomethylphenyl)but-2-enoate | 8 g | BrCC1=C(C=CC=C1)C(C(=O)OC)=CC | C12H13BrO2
